US09422271B2
A mixture of 3-(5-bromothiophen-2-yl)-3-oxopropyl acetate (2.4 g, 8.8 mmol, 1 eq) in THF (150 ml) was stirred at 0° C., and NaBH4 (401.2 mg, 10.6 mmol, 2 eq) was added slowly and the reaction was stirred at 23° C. After 1 hour, Na2CO3.H2O was added. After 30 min the mixture was filtered and extracted with EtOAc (3×50 ml). The combined organic phases were washed (brine), dried (Na2SO4), filtered and concentrated to give a residue. The residue was purified by silica gel column chromatography (PE/EtOAc=5:1 as eluant) to give 3-(5-bromothiophen-2-yl)-3-hydroxypropyl acetate (1.92 g, 78.2%) as white solid. LC-MS (m/z)=279.1 [M+H]+

reactant | 3-(5-bromothiophen-2-yl)-3-oxopropyl acetate | 8.8 mmol, 2.4 g, 1 eq | C(C)(=O)OCCC(=O)C=1SC(=CC1)Br | C9H9BrO3S
reactant | NaBH4 | 10.6 mmol, 401.2 mg, 2 eq | [BH4-].[Na+]
reactant | Na2CO3.H2O | C(=O)([O-])[O-].[Na+].[Na+].O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 3-(5-bromothiophen-2-yl)-3-hydroxypropyl acetate | 1.92 g, 78.2% | C(C)(=O)OCCC(O)C=1SC(=CC1)Br | C9H11BrO3S
